US07842832B2
1. n-Propyl 2-cyano-3-hydroxy-4-[(methylsulfanyl)methyl]-2-hexenoate
At 25° C., 16.7 g (0.1 mol) of 2-[(methylsulfanyl)methyl]butyryl chloride were added to a solution of 12.7 g (0.1 mol) of n-propyl cyanoacetate in CH2Cl2, and the mixture was cooled to 0° C. At 0° C., 20.2 g (0.2 mol) of triethylamine were then added dropwise. After 16 h of stirring at 25° C., the reaction mixture was hydrolyzed and the organic phase was separated off, dried and concentrated. Customary purification gave 15 g (58% of theory) of the title compound as a yellow liquid (b.p. 118 to 120° C./2 mbar).

reactant | 2-[(methylsulfanyl)methyl]butyryl chloride | 0.1 mol, 16.7 g | CSCC(C(=O)Cl)CC | C6H11ClOS
reactant | n-propyl cyanoacetate | 0.1 mol, 12.7 g | C(#N)CC(=O)OCCC | C6H9NO2
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | n-Propyl 2-cyano-3-hydroxy-4-[(methylsulfanyl)methyl]-2-hexenoate | C(#N)C(C(=O)OCCC)=C(C(CC)CSC)O | C12H19NO3S
